US04859229
A mixture of 2.0 g of 3-[5-(2-aminoethoxy)-4-chloro- 2-fluorophenyl]-1-methyl-6 -trifluoromethyl-2,4(1H.3H)pyrimidinedione hydrochloride in 20 ml of formic acid are heated to boiling temperature for 20 hours with 0.47 g of triethylamine. The reaction mixture is subsequently evaporated to dryness under reduced pressure, the residue is dissolved in ethyl acetate and extracted with water and thereafter with aqueous sodium bicarbonate solution, and the organic phase is dried over anhydrous sodium sulphate. The solution is thereafter evaporated to dryness under reduced pressure, and the resinous residue is dissolved in ethyl acetate and largely concentrated by evaporation. The residue, still in the liquid state, is treated with diethyl ether until slightly turbid and is seeded. The crystals are filtered off under suction, washed with diethyl ether and dried. There is obtained N-[2-{2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4 -trifluoromethyl-1(2H)-pyrimidinyl]-4 -fluorophenoxy}-ethyl]-formamide, m.p. 128°-131° C.

reactant | 3-[5-(2-aminoethoxy)-4-chloro- 2-fluorophenyl]-1-methyl-6 -trifluoromethyl-2,4(1H.3H)pyrimidinedione hydrochloride | 2.0 g | Cl.NCCOC=1C(=CC(=C(C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl
reactant | triethylamine | 0.47 g | C(C)N(CC)CC | C6H15N
reactant | formic acid | 20 ml | C(=O)O | CH2O2
product | N-[2-{2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4 -trifluoromethyl-1(2H)-pyrimidinyl]-4 -fluorophenoxy}-ethyl]-formamide | ClC1=C(OCCNC=O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C15H12ClF4N3O4
